US04833164
2-(2-Hydroxyphenylmethyl)-1-naphthol
A solution of 1-tetralone (5.85 g, 0.040 mole) and salicylaldehyde (4.88 g, 0.040 mole) in t-butanol (400 mL) was treated with potassium t-butoxide (17.6 g, 0.160 mole) was heated at reflux for 16 hours. After cooling to room temperature, the solution was poured into stirred 1.0N hydrochloric acid. After isolation by extraction with ethyl acetate, the crude product was chromatographed with 4:1 petroleum ether/ether, to provide a tan solid. This was recrystallized (cyclohexane/chloroform) to give the titel compound as white needles (5.24 g, 52%), mp 124°-125°.

reactant | 1-tetralone | 0.040 mole, 5.85 g | C1(CCCC2=CC=CC=C12)=O | C10H10O
reactant | salicylaldehyde | 0.040 mole, 4.88 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | potassium t-butoxide | 0.160 mole, 17.6 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 1.0N | Cl | ClH
solvent | t-butanol | 400 mL | C(C)(C)(C)O | C4H10O
product | 2-(2-Hydroxyphenylmethyl)-1-naphthol | 5.24 g, 52% | OC1=C(C=CC=C1)CC1=C(C2=CC=CC=C2C=C1)O | C17H14O2
